US07910595B2
4-Chloro-N-(5-chloro-pyridin-2-yl)-3-nitro-benzamide
A solution of 4-chloro-3-nitrobenzoyl chloride (1.00 g, 4.99 mmol) in dry methylene chloride (20 mL) under a nitrogen atmosphere was treated with 2-amino-5-chloropyridine (643 mg, 4.99 mmol) and N,N-diisopropylethylamine (1.05 mL, 6.00 mmol), and the resulting mixture stirred at room temperature for 18 hours. The solvent was removed by rotary evaporation in vacuo, the residue taken up in ethyl acetate (100 mL), and washed with saturated aqueous sodium bicarbonate (50 mL), water (2×50 mL), and brine (50 mL). The organic extract was dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. Trituration with 5% ethyl acetate/methylene chloride afforded the title compound as a dark yellow solid (660 mg, 42%).

reactant | 4-chloro-3-nitrobenzoyl chloride | 4.99 mmol, 1.00 g | ClC1=C(C=C(C(=O)Cl)C=C1)[N+](=O)[O-] | C7H3Cl2NO3
reactant | 2-amino-5-chloropyridine | 4.99 mmol, 643 mg | NC1=NC=C(C=C1)Cl | C5H5ClN2
reactant | N,N-diisopropylethylamine | 6.00 mmol, 1.05 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 4-Chloro-N-(5-chloro-pyridin-2-yl)-3-nitro-benzamide | 660 mg, 42% | ClC1=C(C=C(C(=O)NC2=NC=C(C=C2)Cl)C=C1)[N+](=O)[O-] | C12H7Cl2N3O3
